US08541595B2
Step 2, Example X-2: 5-(cyclohexylmethyl)-5-[4-(methylsulfonyl)phenyl]-5H-imidazo[2,1-a]isoindole
To a solution of 5-(cyclohexylmethyl)-5-[4-(methylthio)phenyl]-5H-imidazo[2,1-a]isoindole (38 mg) in MeOH (1 mL) was added water drop wise until the clear solution started to become turbid. Oxone (69 mg) was added at this time and stirred at room temperature 21 h. The reaction mixture was then diluted with MeOH, filtered and the filtrate was concentrated. Purification by reversed phase HPLC (21×100 mm Phenomenex Gemini, 15-85% MeCN/water containing 0.05% NH4OH over 20 min at 20 mL/min) afforded title compound as a white solid. HRMS. Found, 407.1802; calcd for (M+H)+, 407.1788. 1H NMR (500 MHz, CDCl3): δ 7.89-7.85 (m, 3 H); 7.45-7.39 (m, 1 H); 7.37 (d, J=1.28 Hz, 1 H); 7.32-7.26 (m, 3 H); 7.24 (d, J=8.00 Hz, 1 H); 6.99 (d, J=1.29 Hz, 1 H); 3.01 (s, 3 H); 2.60 (dd, J=14.41, 4.34 Hz, 1 H); 2.41 (dd, J=14.40, 4.00 Hz, 1 H); 1.54-1.38 (m, 3 H); 1.33-1.19 (m, 2 H); 1.10-0.73 (m, 7 H).

reactant | 5-(cyclohexylmethyl)-5-[4-(methylthio)phenyl]-5H-imidazo[2,1-a]isoindole | 38 mg | C1(CCCCC1)CC1(N2C(C3=CC=CC=C13)=NC=C2)C2=CC=C(C=C2)SC | C24H26N2S
reactant | water | O | H2O
reactant | Oxone | 69 mg | OOS(=O)[O-].[K+]
solvent | MeOH | 1 mL | CO | CH4O
product | 5-(cyclohexylmethyl)-5-[4-(methylsulfonyl)phenyl]-5H-imidazo[2,1-a]isoindole | C1(CCCCC1)CC1(N2C(C3=CC=CC=C13)=NC=C2)C2=CC=C(C=C2)S(=O)(=O)C | C24H26N2O2S
